US07956191B2
3-[(2-chloro-4-iodophenyl)amino]isonicotinic acid
To suspension of 3-fluoroisonicotinic acid (2.00 g, 14.17 mmol, in tetrahydrofuran (50 ml) at −78° C. was added lithium bis(trimethylsilyl)amide (14.3 ml, 17.01 mmol). The dark colored suspension was stirred for 15 min. In another flask, to a solution of 2-chloro-4-iodoaniline (4.7 g, 18.43 mmol) in THF (50 ml) was added lithium bis(trimethylsilyl)amide (24.9 ml, 29.77 mmol) at −78° C. under N2. The resulting green colored solution was stirred for 15 min. To this green colored solution the lithiated acid solution was added. The cold bath was removed, allowed to warm to room temperature, and stirred overnight. The mixture was filtered, and the crude was diluted with EtOAc (400 ml). It was then washed with dilute HCl (25 ml), H2O (25 ml), and dried. During concentration of the solvent, 3-[(2-chloro-4-iodophenyl)amino]isonicotinic acid was separated out as an yellow solid. (1.3 g, 24%)

reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
reactant | lithium bis(trimethylsilyl)amide | 17.01 mmol, 14.3 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-chloro-4-iodoaniline | 18.43 mmol, 4.7 g | ClC1=C(N)C=CC(=C1)I | C6H5ClIN
reactant | lithium bis(trimethylsilyl)amide | 29.77 mmol, 24.9 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-[(2-chloro-4-iodophenyl)amino]isonicotinic acid | ClC1=C(C=CC(=C1)I)NC1=C(C(=O)O)C=CN=C1 | C12H8ClIN2O2
